US07585885B2
5-Amino-N-methyl-N-propyl-isophthalamic acid methyl ester
Mix 5-nitro-isophthalic acid monomethylester (3.0 g, 13.32 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (3.20 g, 16.65 mmol), and 1-hydroxybenzotriazole (2.25 g, 16.65 mmol) in dichloromethane (100 mL) at room temperature for 20 min. Add propylmethylamine (1.46 g, 16.65 mmol) and triethylamine (3.36 g, 33.3 mmol). Stir at room temperature for 1 h, dilute with ethyl acetate, wash with 10% aqueous potassium carbonate, 1 N citric acid, saturated aqueous sodium chloride and concentrate. Dissolve in ethanol (100 mL), add a slurry of 10% Pd/C (300 mg) in ethanol (10 mL) and place under a hydrogen atmosphere using a balloon and stir overnight. Flush with nitrogen, filter and concentrate to give the title compound as an oil.

reactant | 5-nitro-isophthalic acid monomethylester | 13.32 mmol, 3.0 g | COC(C1=CC(C(=O)O)=CC(=C1)[N+](=O)[O-])=O | C9H7NO6
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 16.65 mmol, 3.20 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 16.65 mmol, 2.25 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | propylmethylamine | 16.65 mmol, 1.46 g | C(CC)NC | C4H11N
reactant | triethylamine | 33.3 mmol, 3.36 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Amino-N-methyl-N-propyl-isophthalamic acid methyl ester | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)N)=O | C13H18N2O3
